Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
cefepime / Advil
 
Attending: ___
 
Chief Complaint:
fever and diarrhea

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ who recentlly returned home from rehab following her 
hospitalization on ___ for c. diff colitis presents with fever 
of 102. 5 days ago (2 days before discharge from rehab), the 
patient was noted to be acting strangly, (calling her 
granddaughter late at night, asking about traveling to ___ 
and was found to have a UTI for which she was given 3 days of 
ciprofloxacin. Last evening, the patient became incontinent of 
urine and stool and fell down while trying to get out of bed. 
The stool was noted to be diarrhea and nonbloody. She denies 
hitting her head or LOC. 

[+]nausea [-]vomitting [-]CP,SOB, cough or abd pain

In the ED, VS: 98 98 107/41 16 99% RA 
Notable labs: WBC 27 Cr 1.0 Lactate 3.0
Imaging: NCHCT- no acute process
CT Abd
CT Chest
Given 3L NS, vanc, zosyn, flagyl and APAP 1g

On arrival to the FICU, she was afebrile, tach 110s, SBPs ___ 
and satting 99 on RA. She was given 1L LR.

 
Past Medical History:
  
PAST MEDICAL & SURGICAL HISTORY: (per OMR, unable to verify with 
patient)  
- Cefepime Toxicity requiring Dialysis  
- Non-convulsive status epilepticus  
- Anemia  
- Osteomyelitis  
- Hypertension  
- Subdural hematoma s/p burrhole in ___  
- osteoarthritis  
- shingles infection in ___  

 
Social History:
___
Family History:
 Son passed away due to "choking episode" per ___ 
records 
 
Physical Exam:
==================
ADMISSION PHYSICAL
==================
Vitals: T: BP:94/41 P: 98 R: 16 O2: 94 ra  
GENERAL: NAD
HEENT: dry mucous membranes
LUNGS: No increased WOB, clear anteriorly, no crackles. Crackles 
R base. 
CV: regular. Tachycardic. No murmurs
ABD:  soft, NTND +BS
EXT: No edema. Small abraison R knee

============================
PHYSICAL UPON ICU DISCHARGE
============================
Vitals: T: 98.1 BP: 136/74 HR: 92 R: 19 O2: 99 RA
Gen: slightly confused, NAD
___: regular
Lungs: crackles R>L
Abd: NTND
Ext: no edema

 
Pertinent Results:
=============
ADMISION LABS
=============
___ 10:05AM BLOOD WBC-27.1*# RBC-3.54* Hgb-11.5 Hct-38.0 
MCV-107* MCH-32.5* MCHC-30.3* RDW-14.3 RDWSD-56.4* Plt ___
___ 10:05AM BLOOD Neuts-92* Bands-0 Lymphs-4* Monos-4* 
Eos-0 Baso-0 ___ Myelos-0 AbsNeut-24.93* 
AbsLymp-1.08* AbsMono-1.08* AbsEos-0.00* AbsBaso-0.00*
___ 10:05AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-2+ Microcy-NORMAL Polychr-NORMAL Ovalocy-1+ Tear Dr-1+
___ 10:05AM BLOOD Glucose-104* UreaN-25* Creat-1.1 Na-129* 
K-6.0* Cl-101 HCO3-12.0* AnGap-22*
___ 12:44PM BLOOD Lactate-3.0* K-4.2

==============
PERTINENT LABS
==============
___ 12:44PM BLOOD Lactate-3.0* K-4.2
___ 06:31AM BLOOD Lactate-1.1
___ 06:15AM BLOOD Hapto-175
___ 06:15AM BLOOD LD(LDH)-141 TotBili-0.1
___ 10:05AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-2+ Microcy-NORMAL Polychr-NORMAL Ovalocy-1+ Tear Dr-1+
==============
MICROBIOLOGY
==============
___ 10:30 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Reported to and read back by ___ ___ 9:40AM. 
      CLOSTRIDIUM DIFFICILE. 
         Positive for toxigenic C. difficile by the Illumigene 
DNA
         amplification.            (Reference Range-Negative). 

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

___ 10:30 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      YEAST.    <10,000 organisms/ml. 

==============
STUDIES
==============
___ NCHCT
IMPRESSION:  
  
No acute intracranial process. 

___ CT C-SPINE
IMPRESSION: 
   
1. No acute fracture. 
2. Severe cervical spondylosis with multilevel subluxation and 
moderate to severe spinal canal narrowing, worst at C5-6.  The 
latter finding predisposes the patient to spinal cord injury 
with minor trauma. 

___ CT CHEST/ABD/PELVIS
IMPRESSION: 
   
1. No acute sequelae of trauma. 
2. Mild pneumobilia was not seen on prior CT.  Correlate with 
any history of prior sphincterotomy. 
3. Proctocolitis, likely of infectious or inflammatory cause, 
involving the entire colon rectum is not substantially changed.  
No megacolon or focal fluid collections. 
4. Subacute compression/burst fracture of L3 with retropulsion 
of a small bony fragment is unchanged from prior CT. 

 

 
Brief Hospital Course:
___ presented to the ED with fever of 102 after recent d/c from 
rehab after previous hosptialization for c. diff colitis s/p 3 
days of cipro for UTI, who presented with severe sepsis and 
shock now with hypotention and lactic acidosis.

#Severe Complicated C. diff collitis and Septic shock: Patient 
was febrile, hypotensive with leukocytosis, diarrhea and lactate 
of 3.0 upon presentation in setting of previous history of c. 
diff s/p 3 days of ciprofloxacin for UTI. In the ED she was 
given IV vanc, zosyn and flagyl. On the floor she was switched 
to flagyl IV, vancomycin PO and ceftriaxone (to treat a ?UTI). 
C. Diff PCR was positive and urine culture were negative. Blood 
cultures were NGTD. Her fever, leukocytosis, lactate and 
hypotension all improved with fluid boluses of LR and 
antibiotics and the patient did not require any pressors. Flagyl 
was stopped on ___. Given first recurrence of severe c diff, is 
to complete a 14d course of antibiotics to complete ___.

#Altered Mental Status: Upon admission, the patient was slightly 
confused, however oriented x3. The evening of ___ the patient 
was given seroquel for insomnia and became agitated. During the 
afternoon on ___, the patient became very agitated, demanding 
that she be let outside. She was given haldol 2.5 IV x2. With 
resolution of above metabolic abnormalities, this returned to 
baseline. She has resumed her home low dose qhs mirtazapine on 
discharge. 

#Acute Kidney Injury: Although Cr was 1.0 on presentation, given 
patient's age and weight her calculated GFR was 27. Secondary to 
pre-renal azotemia given diarrhea as above. Cr improved with 
IVF. Discharge cr 0.6. 

#Hyponatremia: Hypovolemic hyponatremia from diarrhea. Improved 
with administration of NS. Discharge Na 136.

#Fall: No LOC, no head trauma. NCHCT negative. Occured with 
change in position. Pre-syncope from hypovolemia.

# chronic anemia: presented initially with hemoconcentration, 
but with fluids hct returned to baseline (___) and remained 
stable thereafter (discharge hct 27.7). Previous w/u has 
included iron studies, B12, folate, which has been potentially 
c/w anemia of chronic disease versus CKD-related. Consideration 
can be made for checking an epo level as an outpatient. 

# incidental findings: 
# baseline severe spinal stenosis: known to have severe lumbar 
spinal stenosis, and had been considering injections for pain as 
an outpatient. Imaging here demonstrated severe spinal stenosis 
(which could put her at risk for spinal injury with trauma) in 
cervical area here, but asymptomatic from that perspective. 
Consideration can be made as an outpatient to consider further 
workup and management, though given age and co-morbidity and 
goals of care, surgical intervention seems unlikely to be 
beneficial. 

# compression fx v burst fx on vertebral imaging: on home 
vitamin D with recent level wnl, Ca wnl. Has already been 
ordered for outpatient BMD imaging by PCP. Can consider 
bisphosphonate pending results as an outpatient. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen (Liquid) 1000 mg PO Q8H:PRN Pain 
2. Lidocaine 5% Patch 1 PTCH TD QAM 
3. TraMADOL (Ultram) 75 mg PO TID 
4. Ascorbic Acid ___ mg PO BID 
5. Bisacodyl ___AILY:PRN Constipation 
6. ___ 500 mg (cranberry fruit concentrate) 500 mg oral BID 

7. Docusate Sodium 100 mg PO BID:PRN constipation 
8. Vitamin D 1000 UNIT PO BID 
9. Mirtazapine 7.5 mg PO QHS 

 
Discharge Medications:
1. Acetaminophen (Liquid) 650 mg PO Q6H:PRN Pain 
2. Ascorbic Acid ___ mg PO BID 
3. Lidocaine 5% Patch 1 PTCH TD QAM 
4. TraMADOL (Ultram) 50 mg PO TID 
5. Vitamin D 1000 UNIT PO BID 
6. Vancomycin Oral Liquid ___ mg PO Q6H 
Please take this for the last dose ___. Bisacodyl ___AILY:PRN Constipation 
8. ___ 500 mg (cranberry fruit concentrate) 500 mg oral BID 

9. Miconazole 2% Cream 1 Appl TP BID 
10. Senna 8.6 mg PO BID:PRN Constipation 
11. Mirtazapine 7.5 mg PO QHS 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Severe Complicated C. Diff collitis
Septic Shock

Secondary Diagnosis:
Altered Mental Status
 
Discharge Condition:
A&Ox3, pleasant
ambulatory with assistance

 
Discharge Instructions:
Dear ___ was a pleasure caring for you. You were admitted with a 
severe recurrence of your colon infection/diarrhea from 
clostridium difficile. This also caused a severe reaction and 
low blood pressures. Thankfully, you got better with aggressive 
fluids and antibiotics. Please complete the course of 
antibiotics, which will complete ___.
 
Followup Instructions:
___